Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ female with a past medical history
of active cervical cancer on cisplatin chemotherapy (C1D15, last
dose on ___ and concurrent radiation who presents with fever. 

Apparently, she felt reasonably well, but was somewhat fatigued
post-chemotherapy. She states she normally got this feeling 
after
chemotherapy, but her temperature never previously escalated
above ___. At home, her temperature was ___. 

Patient called her oncologist who recommended that she go to the
hospital for evaluation. She presented to ___ who
performed an initial evaluation. Patient was transferred to 
___
for continuity of care with primary oncologist. Patient was 
given
Cefepime and vancomycin enroute to ___. She had mild
maculopapular rash that was diffuse and patient reports was
present during febrile periods. She felt improved when fever 
went
away this afternoon, but then the fever returned this afternoon.
Patient has been given acetaminophen for fevers with good
response. Initial lactate 3.1 (___), but downward trend
to 1.7 (___). Patient reports only chills and a mild headache
with the fever. 

Otherwise, no lightheadedness, chest pain, palpitations,
shortness of breath, abdominal pain, nausea, burning or pain 
with
urination, blood in urine or stool, diarrhea or constipation.
Patient reports no new medications other than antiemetics that
she takes after chemotherapy. She takes no over the counter
medications. No recent travel or sick contact. 

 
Past Medical History:
Recurrent cervical cancer
Hyperlipidemia
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Dry lips, but moist oropharynx without visible lesion, erythema
or exudate
CV: Heart regular, no murmur, no JVD. Radial and DP pulses
present. 
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender.  Bowel sounds
present.  
GU: No suprapubic tenderness 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Tan skin. No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VS: ___ 0710 Temp: 99.1 PO BP: 116/75 HR: 66 RR: 18 O2 sat: 
98% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress, walking around room
with IV pole
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Moist oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender.  Bowel sounds
present.  
GU: No suprapubic tenderness 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Tan skin. No rashes or ulcerations noted.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:

___ 07:35AM BLOOD WBC-3.4* RBC-3.35* Hgb-10.4* Hct-30.5* 
MCV-91 MCH-31.0 MCHC-34.1 RDW-13.1 RDWSD-43.1 Plt ___
___ 07:35AM BLOOD Neuts-84* Bands-4 Lymphs-6* Monos-5 Eos-1 
Baso-0 AbsNeut-2.99 AbsLymp-0.20* AbsMono-0.17* AbsEos-0.03* 
AbsBaso-0.00*
___ 07:35AM BLOOD Plt ___ ___
___ 07:35AM BLOOD Glucose-89 UreaN-12 Creat-0.8 Na-138 
K-3.9 Cl-106 HCO3-23 AnGap-9*
___ 07:35AM BLOOD ALT-71* AST-48* LD(LDH)-210 AlkPhos-52 
TotBili-0.4

DISCHARGE LABS:

___ 07:45AM BLOOD WBC-2.7* RBC-3.41* Hgb-10.5* Hct-30.9* 
MCV-91 MCH-30.8 MCHC-34.0 RDW-13.1 RDWSD-42.6 Plt ___
___ 07:45AM BLOOD Neuts-70.4 Lymphs-17.0* Monos-9.6 Eos-2.2 
Baso-0.4 Im ___ AbsNeut-1.90 AbsLymp-0.46* AbsMono-0.26 
AbsEos-0.06 AbsBaso-0.01
___ 07:45AM BLOOD Glucose-86 UreaN-8 Creat-0.8 Na-140 K-4.1 
Cl-105 HCO3-26 AnGap-9*
___ 07:45AM BLOOD ALT-67* AST-35 AlkPhos-61 TotBili-0.3
___ 07:45AM BLOOD Calcium-8.7 Phos-2.5* Mg-1.9

MICRO:

___ URINE CULTURE -

  Urine Culture  Final                                           
  ___

     Organism 1                     Escherichia coli
        Colony Count:               10,000 - 50,000 CFU/mL

                      E coli          
                      M.I.C. Inter    
                      ------ -----    
     Amox/Clav        4      S        
     Ampicillin       8      S        
     Aztreonam        <=1    S        
     Cefazolin        <=4    S        
     Cefepime         <=1    S        
     Ceftriaxone      <=1    S        
     Ciprofloxacin    <=0.25 S        
     Ertapenem        <=0.5  S        
     ESBL                    -        
     Gentamicin       <=1    S        
     Imipenem         <=0.25 S        
     Levofloxacin     <=0.12 S        
     Meropenem        <=0.25 S        
     Nitrofurantoin   <=16   S        
     Pip/Tazo         <=4    S        
     Tetracycline     <=1    S        
     Trimeth/Sulfa    <=20   S      

___ Blood cultures NGTD (prelim) after 2 days

IMAGING:

___ RUQUS:
1. No evidence of cholecystitis. 
2. Similar severe right hydronephrosis with cortical thinning 
and mild 
prominence of the left collecting system. 
3.   Nonobstructing 2 mm calculi in the left renal lower pole, 
similar 
compared to prior PET-CT done ___. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ female with recurrent/metastatic 
cervical cancer who presented for fever iso active chemotherapy 
and radiation.

ACUTE/ACTIVE PROBLEMS:

# Fever: 
Suspect chemotherapy-induced fever without localization of an 
infection/source other than small amount of bacteria in urine 
sample. However, this early cannot rule out bacteremia or 
impending neutropenic fever and per patient's oncologist, this 
is
not a typical reaction to cisplatin. Parasite smear negative. 
RUQUS negative. Started on empiric  IV cefepime and IV 
vancomycin. Urine culture from ___ with pansensitive e 
coli. Patient afebrile here, blood cultures negative x48 hours, 
therefore de-escalated antibiotics to Bactrim to complete 7-day 
course for UTI.

# Squamous cell recurrence of cervical cancer to the left 
adnexa:
# Severe right hydronephrosis (reportedly known and unchanged
radiographically):
Status post radical excision on ___. On adjuvant external 
beam radiation therapy daily to complete total of 30 sessions. 
Also has been getting weekly cisplatin (___) x5 weeks, 
completed 3 thus far. Patient will follow-up with oncologist 
after discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO COMPLEX 
2. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line NOT relieved by Ondansetron 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*10 Tablet Refills:*0 
2.  Ondansetron 8 mg PO COMPLEX  
3.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line NOT relieved by Ondansetron  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

You were admitted to the hospital for fever after chemotherapy. 
You were found to have some e coli bacteria in your urine, for 
which you were treated with antibiotics.

You should discuss your chemo/treatment action plan further with 
your oncologist.

It was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___